US05087638
A solution of 2-(p-acetoxybenzyl)-3-methyl-4-acetoxy-5-propyl-7-chlorobenzofuran (150 mg, 0.36 mmole) in methanol 5 mL) and a saturated solution of potassium carbonate (3 mL) was stirred at room temperature for 5 minutes. The reaction was poured in water, extracted with methylene chloride, washed with brine, dried (Na2SO4), and concentrated in vacuo to yield 107 mg (79%) of 2-(p-hydroxybenzyl)-3-methyl-4-acetoxy-5-propyl-7-chlorobenzofuran.

reactant | 2-(p-acetoxybenzyl)-3-methyl-4-acetoxy-5-propyl-7-chlorobenzofuran | 0.36 mmole, 150 mg | C(C)(=O)OC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Cl)CCC)OC(C)=O)C=C1 | C23H23ClO5
reactant | potassium carbonate | 3 mL | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 2-(p-hydroxybenzyl)-3-methyl-4-acetoxy-5-propyl-7-chlorobenzofuran | 107 mg, 79% | OC1=CC=C(CC=2OC3=C(C2C)C(=C(C=C3Cl)CCC)OC(C)=O)C=C1 | C21H21ClO4
